US08530648B2
a) 2-((1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one
The mixture of 2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one (15 g, 23 mmol) and Cs2CO3 (45 g, 139 mmol) in methanol (170 ml) was heated under reflux for 2.5 h. The solution was diluted with water, the pH adjusted to 7 with a saturated aqueous potassium carbonate solution and the aqueous phase extracted with dichloromethane. The organic layer was washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford 6.69 g (99%) of the title compound as a beige foam which was not further purified. [1H NMR (400 MHz, DMSO-d6) ♀ ppm 10.91 (br. s., 1H), 7.48-7.55 (m, 1H), 7.32 (d, J=8.2 Hz, 1H), 7.24 (d, J=2.0 Hz, 1H), 7.04 (t, J=7.6 Hz, 1H), 6.88-6.96 (m, 1H), 4.60 (s, 2H), 3.10 (t, J=6.1 Hz, 2H), 2.71-2.89 (m, 2H), 2.51-2.69 (m, 2H), 2.01 (s, 3H), 1.54-1.73 (m, 4H), 1.25-1.38 (m, 2H); LCMS RtC=2.44 min, [M+H]+=298.2].

reactant | 2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one | 23 mmol, 15 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C2=CC=CC=C12)CN1C(C2(CCC1)CCNCC2)=O | C25H29N3O3S
reactant | Cs2CO3 | 139 mmol, 45 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 170 ml | CO | CH4O
solvent | water | O | H2O
product | 2-((1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one | 6.69 g, 99% | N1C=C(C2=CC=CC=C12)CN1C(C2(CCC1)CCNCC2)=O | C18H23N3O
